US06121308
1-ethyl-2-[(4-amidinophenyl)-oxymethyl]-5-[N-(hydroxycarbonylmethyl)-quinoline-8-sulphonylamino]-benzimidazole
Prepared analogously to Example 3 from 1-ethyl-2-[(4-amidinophenyl)-oxymethyl]-5-[N-(ethoxycarbonylmethyl)-quinoline-8-sulphonylamino]-benzimidazole and sodium hydroxide solution.

reactant | 1-ethyl-2-[(4-amidinophenyl)-oxymethyl]-5-[N-(ethoxycarbonylmethyl)-quinoline-8-sulphonylamino]-benzimidazole | C(C)N1C(=NC2=C1C=CC(=C2)N(CC(=O)OCC)S(=O)(=O)C=2C=CC=C1C=CC=NC21)COC2=CC=C(C=C2)C(N)=N | C30H30N6O5S
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-ethyl-2-[(4-amidinophenyl)-oxymethyl]-5-[N-(hydroxycarbonylmethyl)-quinoline-8-sulphonylamino]-benzimidazole | C(C)N1C(=NC2=C1C=CC(=C2)N(CC(=O)O)S(=O)(=O)C=2C=CC=C1C=CC=NC21)COC2=CC=C(C=C2)C(N)=N | C28H26N6O5S
